US07572809B2
g) Preparation of 1-Hydroxy-6-methoxy-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinoline-7-carboxylic acid dimethylamide
A mixture of 6-Cyanomethyl-4-methoxy-N,N-dimethyl-isophthalamic acid (2.0 g, 7.6 mmol), 3-amino-5-methylpyrazol (1.5 g, 15.44 mmol), acetic acid (10 ml) were sealed in microwave process vial (20 ml). The mixture was heated at 130° C. for 30 minutes under microwave irradiation. After removal of acetic acid, the residue was dissolved in 1.5 ml MeOH, and this solution was added dropwise to 30 ml water. After stirred for 1 hour, the solid was collected and was purified by flash column chromatography to give product (2.2 g, 85%). LC-MS: m/e 342 (MH+).

reactant | 6-Cyanomethyl-4-methoxy-N,N-dimethyl-isophthalamic acid | 7.6 mmol, 2.0 g | C(#N)CC1=CC(=C(C=C1C(=O)O)C(=O)N(C)C)OC | C13H14N2O4
reactant | 3-amino-5-methylpyrazol | 15.44 mmol, 1.5 g | NC1=NNC(=C1)C | C4H7N3
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 1-Hydroxy-6-methoxy-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinoline-7-carboxylic acid dimethylamide | 2.2 g, 85% | CN(C(=O)C1=C(C=C2C=C(N=C(C2=C1)O)NC1=NNC(=C1)C)OC)C | C17H19N5O3
